US07989438B2
Step 2: [(2-bromo-5-methoxybenzyl)oxy](triisopropyl)silane
(2-Bromo-5-methoxyphenyl)methanol (1 eq) was dissolved in anhydrous DMF (1.1M solution) and imidazole (1.05 eq) was added. To the stirred solution triisopropylsilyl chloride (1.1 eq) was added and the resulting mixture was stirred at RT for 8 h. All volatiles were evaporated in vacuo and the residual material was filtered with PE/EtOAc (9:1) over a pad of silica gel. After evaporation in vacuo the product was obtained as a colourless oil (94%), which was used without further characterization in the next reaction.

reactant | (2-Bromo-5-methoxyphenyl)methanol | 1 eq | BrC1=C(C=C(C=C1)OC)CO | C8H9BrO2
reactant | imidazole | 1.05 eq | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl chloride | 1.1 eq | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | DMF | 1.1M | CN(C)C=O | C3H7NO
product | [(2-bromo-5-methoxybenzyl)oxy](triisopropyl)silane | 94% | BrC1=C(CO[Si](C(C)C)(C(C)C)C(C)C)C=C(C=C1)OC | C17H29BrO2Si
